### PR TITLE
[ new ] Zipper for List (re #247)

### PR DESCRIPTION
**Pull request by gallais**

### CODE REVIEW

**Comment by andreasabel** [comment]
Thanks, @gallais.

Could we have some documentation with it?  E.g. even for the expert it would be nice if (s)he could read in prose the basic idea of the zipper, in particular if the context is to be appended or reverse-appended to the value.

A little paragraph of documentation for each function would also be nice!

**Comment by gallais** [comment]
I think that should do it!

**Comment by gallais** [comment]
Investigating why the build failed on that one.

File: src/Data/List/Zipper/Properties.agda [hunk 1]
```diff
@@ -0,0 +1,131 @@
...
+------------------------------------------------------------------------
+
+module _ {a b} {A : Set a} {B : Set b} where
+
+ toList-map-commute : ∀ (f : A → B) zp → toList (map f zp) ≡ List.map f (toList zp)
+ toList-map-commute f zp@(mkZipper ctx val) = begin
+   List.reverse (List.map f ctx) List.++ List.map f val
+     ≡⟨ cong (List._++ _) (sym (reverse-map-commute f ctx)) ⟩
+   List.map f (List.reverse ctx) List.++ List.map f val
+     ≡⟨ sym (map-++-commute f _ val) ⟩
```
Comment (MatthewDaggitt) [inline src/Data/List/Zipper/Properties.agda]: Just to note that this `_` wasn't inferable by Agda 2.5.3. I've fixed it in 37baa09.

Hopefully Travis will catch this next time now that it's back up and running.

Comment (gallais) [reply src/Data/List/Zipper/Properties.agda]: It did catch it this time because I rebased the branch against master after fixing the builds.
However the fact the PR had been marked as failing since it was created made it quite hard
to notice the failure! :D
